US07968746B2
To a solution of 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (511 mg, 2.1 mmol) in 10 mL THF was added 356 mg CDI and stirred for 2 h. 3-morpholino-propylamine (438 μl, 432 mg, 3.0 mmol) in 10 mL THF was added dropwise and stirred overnight. The reaction was concentrated, dissolved into 70 mL CH2Cl2, the organics washed once with 50 mL saturated NaCl solution, dried over Na2SO4 and concentrated to brown oil. Flash chromatography yielded 6-hydroxy-2,5,7,8-tetramethyl-N-(3-morpholinopropyl)chroman-2-carboxamide as a pale brown solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.1 mmol, 511 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-morpholino-propylamine | 3.0 mmol, 438 μl, 432 mg | O1CCN(CC1)CCCN | C7H16N2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-hydroxy-2,5,7,8-tetramethyl-N-(3-morpholinopropyl)chroman-2-carboxamide | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCN1CCOCC1)C)C | C21H32N2O4
